US05451700
A stirred solution of 2,4-dimethoxybenzoic acid (4.31 g, 23.7 mmol) in 35 mL of dichloromethane is treated with N-isopropylaniline (3.07 mL, 21.33 mmol), hydroxybenzotriazole (3.2 g, 23.7 mmol), and 1-ethyl-3-[3-(dimethylamino)propyl]-carbodiimide hydrochloride (4.54 g, 23.7 mmol). This solution is stirred at room temperature for 18 hours and the resulting solution is partitioned between ethyl acetate and 1N hydrochloride solution. The organic layer is washed with water, dried over sodium sulfate and concentrated. The resulting material is purified by chromatography on silica gel (150 g) with 40-60% ethyl acetate/hexane as the eluent to afford 2,4-dimethoxy-N-(1-methylethyl)-N-phenylbenzamide as a colorless foam.

reactant | 2,4-dimethoxybenzoic acid | 23.7 mmol, 4.31 g | COC1=C(C(=O)O)C=CC(=C1)OC | C9H10O4
reactant | N-isopropylaniline | 21.33 mmol, 3.07 mL | C(C)(C)NC1=CC=CC=C1 | C9H13N
reactant | hydroxybenzotriazole | 23.7 mmol, 3.2 g | OC1=CC=CC=2NN=NC21 | C6H5N3O
reactant | 1-ethyl-3-[3-(dimethylamino)propyl]-carbodiimide hydrochloride | 23.7 mmol, 4.54 g | Cl.C(C)N=C=NCCCN(C)C
solvent | dichloromethane | 35 mL | ClCCl | CH2Cl2
product | 2,4-dimethoxy-N-(1-methylethyl)-N-phenylbenzamide | COC1=C(C(=O)N(C2=CC=CC=C2)C(C)C)C=CC(=C1)OC | C18H21NO3
